US07544835B2
3-[3-(4-Chlorobenzyloxycarbonylamino)-4-ethoxyphenyl]-2-isopropoxypropanoic acid
25 mg of di-t-Butyl dicarbonate was dissolved in 0.5 ml of acetonitrile, and a solution of 10 mg of 4-dimethylaminopyridine and 25 mg of ethyl 3-(3-amino-4-ethoxyphenyl)-2-isopropoxypropanoate in acetonitrile was added, and the mixture was stirred for 2 minutes. The reaction solution was treated with 20 mg of 4-chlorobenzyl alcohol, then stirred at 80° C. for 2 hours. The solvent was removed under a stream of nitrogen, and the residue was dissolved in 0.6 ml of ethanol, and 0.12 ml of 5N sodium hydroxide was added. The mixture was stirred at room temperature for 1 hour, and 1 ml of water and 0.14 ml of 5N hydrochloric acid were added, and the mixture was extracted with ethyl acetate. The organic layer was collected, and the solvent was removed under a stream of nitrogen. The residue was purified by HPLC on a reverse-phase column using a water-acetonitrile-trifluoroacetic acid solvent system, to give 19 mg of the title compound.

reactant | di-t-Butyl dicarbonate | 25 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 3-(3-amino-4-ethoxyphenyl)-2-isopropoxypropanoate | 25 mg | NC=1C=C(C=CC1OCC)CC(C(=O)OCC)OC(C)C | C16H25NO4
reactant | 4-chlorobenzyl alcohol | 20 mg | ClC1=CC=C(CO)C=C1 | C7H7ClO
solvent | acetonitrile | 0.5 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-[3-(4-Chlorobenzyloxycarbonylamino)-4-ethoxyphenyl]-2-isopropoxypropanoic acid | 19 mg | ClC1=CC=C(COC(=O)NC=2C=C(C=CC2OCC)CC(C(=O)O)OC(C)C)C=C1 | C22H26ClNO6
